US06057354
Preparation of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-[(1,1-dimethoxy)ethyl]-4-methylthio-1H-pyrazole
A mixture of 2.0 g (0.0052 mole) of 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole, 1.7 ml (0.0156 mole) of trimethyl orthoformate, 0.060 g (0.0003 mole) of para-toluenesulfonic acid monohydrate and 10 ml of methanol was heated at 40° C. for about 8 hours, then left 64 h at 20° C. The mixture was mixed with a saturated solution of NaHCO3, extracted with dichloromethane, and successively dried, filtered, evaporated, chromatographed on silica gel. 0.59 g of the title compound having a melting point of about 149° C. was obtained.

reactant | 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole | 0.0052 mole, 2.0 g | C(C)(=O)C1=NN(C(=C1SC)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H10Cl2F3N3OS
reactant | trimethyl orthoformate | 0.0156 mole, 1.7 ml | C(OC)(OC)OC | C4H10O3
reactant | para-toluenesulfonic acid monohydrate | 0.0003 mole, 0.060 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-[(1,1-dimethoxy)ethyl]-4-methylthio-1H-pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)(OC)OC)SC | C15H16Cl2F3N3O2S
